US05710336
5,6-Dihydroxy-2-methylaminotetralin HCl
41.4 g of dry AlCl3 (310.4 moles), 230 ml of toluene and 20.0 g of 5,6-dimethoxy-2-methylaminotetralin HCl (77.6 moles) are placed into a 4-necked round-bottomed flask, with stirring, under a slight stream of dry nitrogen. Temperature is brought to 80° C. to obtain a stirrable brown mixture, is left at 80° C. for 4 hours, then cooled to room temperature and poured into ice-water (about 1000 ml total). The aqueous phase is separated and evaporated under vacuum (T about 80° C.). The whitish solid is triturated at room temperature in 750 ml of absolute ethanol, then dried at 60° C. Yield: 16.1 g, 90% (moles), 80% (weight); M.P.>280° C.

reactant | AlCl3 | 310.4 moles, 41.4 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 5,6-dimethoxy-2-methylaminotetralin HCl | 77.6 moles, 20.0 g | Cl.COC1=C2CCC(CC2=CC=C1OC)NC
solvent | toluene | 230 ml | C1(=CC=CC=C1)C | C7H8
product | 5,6-Dihydroxy-2-methylaminotetralin HCl | Cl.OC1=C2CCC(CC2=CC=C1O)NC | InChI=1S/C11H15NO2.ClH/c1-12-8-3-4-9-7(6-8)2-5-10(13)11(9)14;/h2,5,8,12-14H,3-4,6H2,1H3;1H
